* d:\esim-workspace\7thsnm\7thsnm.cir

.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
* u1  qb plot_v1
* u3  q plot_v1
v1  vdd gnd 1.8

v2 wl gnd  pwl  0  1.8, 10n 0, 20n 0, 40n 0, 50n 1.8
v3 wr gnd  pwl  0  0, 10n 0, 20n 1.8, 40n 1.8, 50n 0
.ic v(blb) 1.8
.ic v(bl) 1.8
.ic v(q) 1.8
.ic v(qb) 0

v6 r  gnd pwl 	 0  0, 15n 0, 20n 1.8, 35n 1.8, 40n 0

* u2  wr plot_v1
xsc2 q qb net-_sc2-pad3_ vdd sky130_fd_pr__pfet_01v8_lvt 
xsc5 net-_sc2-pad3_ q net-_sc4-pad1_ vdd sky130_fd_pr__pfet_01v8_lvt 
xsc3 q qb gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 gnd q net-_sc4-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 qb wl blb gnd sky130_fd_pr__nfet_01v8_lvt 
xsc7 bl r q gnd sky130_fd_pr__nfet_01v8_lvt 
xsc4 net-_sc4-pad1_ wr qb gnd sky130_fd_pr__nfet_01v8_lvt 
* s c m o d e
xsc9 net-_sc2-pad3_ vdd vdd sky130_fd_pr__res_generic_nd 
xsc8 blb gnd sky130_fd_pr__cap_mim_m3_1 
xsc10 bl gnd sky130_fd_pr__cap_mim_m3_1 
* u4  blb plot_v1
* u5  bl plot_v1

.tran 0.1e-09 150e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(qb) v(q)+2 v(wl)+4 v(blb)+6 v(bl)+8
.endc
.end
