* d:\esim-workspace\decoder_3to8\decoder_3to8.cir

* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ mud_dec_3to8
* u7  net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ net-_r4-pad2_ net-_r5-pad2_ net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ adc_bridge_5
* u8  net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_r7-pad1_ w6 w5 w4 w3 w2 w1 w0 dac_bridge_8
r7  net-_r7-pad1_ w7 1k
c1  w7 gnd 1u
v4  a1 gnd pulse(0 5 0.5n 10n 10n 40n 100n)
v3  a2 gnd pulse(0 5 0.5n 10n 10n 20n 60n)
v2  enb gnd pulse(5 5 0 0 0 0 0)
v1  clk gnd pulse(0 5 0.1n 10n 10n 20n 60n)
v5  a0 gnd pulse(0 5 0.5n 10n 10n 80n 180n)
r1  clk net-_r1-pad2_ 1k
r2  enb net-_r2-pad2_ 1k
r3  a2 net-_r3-pad2_ 1k
r4  a1 net-_r4-pad2_ 1k
r5  a0 net-_r5-pad2_ 1k
r6  net-_r1-pad2_ gnd 1k
* u12  w7 plot_v1
* u11  w4 plot_v1
* u10  w5 plot_v1
* u13  w3 plot_v1
* u14  w2 plot_v1
* u15  w1 plot_v1
* u16  w0 plot_v1
* u9  w6 plot_v1
* u1  clk plot_v1
* u2  enb plot_v1
* u3  a2 plot_v1
* u4  a1 plot_v1
* u6  a0 plot_v1
a1 [net-_u5-pad1_ ] [net-_u5-pad2_ ] [net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ ] [net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ] u5
a2 [net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ net-_r4-pad2_ net-_r5-pad2_ ] [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ ] u7
a3 [net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ] [net-_r7-pad1_ w6 w5 w4 w3 w2 w1 w0 ] u8
* Schematic Name:                             mud_dec_3to8, NgSpice Name: mud_dec_3to8
.model u5 mud_dec_3to8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 200e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(w7)+6 v(w6)+12 v(w5)+18 v(w4)+24 v(w3)+30 v(w2)+36 v(w1)+42 v(w0)+48 v(clk)+54 v(enb)+60 v(a2)+66 v(a1)+72 v(a0)+78
.endc
.end
